US04178449
2-Ethyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 7.29 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone and 4.08 g. of 3-amino-5-ethylpyrazole-4-carbonitrile in 25 ml. of glacial acetic acid is refluxed for 15 hours and then evaporated to a residue. This residue is treated as described in Example 1, giving the desired product, m.p. 144°-146° C.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 3-amino-5-ethylpyrazole-4-carbonitrile | NC1=NNC(=C1C#N)CC | C6H8N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Ethyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | C(C)C1=NN2C(N=CC=C2C=2C=C(C=CC2)C(F)(F)F)=C1C#N | C16H11F3N4
